US04115568
(a) Ethyl 2-(2-aminoanilino)-5-ethyl-thiophene-3-carboxylate
Ethyl-5-ethyl-2-(2-nitroanilino)-thiophene-3-carboxylate (20.7 g) in ethanol (150 ml) was catalytically reduced over 10% palladium on charcoal (2.0 g) at 60 p.s.i. The catalyst was removed by filtration and the solvent removed by distillation in vacuo. The title product so obtained had a melting point of 50°-52° C. (hexane).

reactant | Ethyl-5-ethyl-2-(2-nitroanilino)-thiophene-3-carboxylate | 20.7 g | C(C)OC(=O)C1=C(SC(=C1)CC)NC1=C(C=CC=C1)[N+](=O)[O-] | C15H16N2O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | Ethyl 2-(2-aminoanilino)-5-ethyl-thiophene-3-carboxylate | NC1=C(NC=2SC(=CC2C(=O)OCC)CC)C=CC=C1 | C15H18N2O2S
